US04536599
117.2 Grams of phenylacetonitrile (II-2), 56.1 g of a 25% aqueous potassium hydroxide solution, 291.5 g of a 35% aqueous hydrogen peroxide solution and 1.78 g of triethylbenzylammonium chloride were mixed at 50° C. for 4 hours in 351.6 g of isopropanol. After completion of the reaction, isopropanol was distilled off and the formed precipitate was filtered out and washed with water to obtain 128.5 g of phenylacetamide (m.p.: 155° C.) (I-2) in a yield of 95%.

reactant | phenylacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrogen peroxide | OO | H2O2
catalyst | triethylbenzylammonium chloride | 1.78 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | isopropanol | 351.6 g | C(C)(C)O | C3H8O
product | phenylacetamide | 128.5 g, yield of 95% | C1(=CC=CC=C1)CC(=O)N | C8H9NO
